US04740513
6-(5-Chloro-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone, 0.25H2O
A mixture of 6-(2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone (0.24 g) and N-chlorosuccinimide (0.14 g) in dichloromethane (10 cm3) was stirred at room temperature for 2 hours. The mixture was then chromatographed directly on silica (Merck "MK 60.9385" [Trade Mark]) eluting with methanol:dichloromethane, 1:20 by volume. Combination and evaporation of the appropriate fractions afforded the title compound, m.p. 258°-61°, (0.18 g).

reactant | 6-(2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone | 0.24 g | CC=1N(C=CN1)C=1C=C2C=CC(NC2=C(C1)C)=O | C14H13N3O
reactant | N-chlorosuccinimide | 0.14 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | 6-(5-Chloro-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone | ClC1=CN=C(N1C=1C=C2C=CC(NC2=C(C1)C)=O)C | C14H12ClN3O
